US05608056
(2R,4R)-1-Allyloxycarbonyl-2-[2-(2-hydroxymethyl-imidazol-1-yl) ethyl]-4-methanesulfonyloxypyrrolidine (15.7 g) was reacted with thioacetic S-acid (6.30 ml) in substantially the same manner as that of Preparation 4-12) to give (2R,4S)-4-acetylthio-1-allyloxycarbonyl-2-[2-(2-hydroxymethylimidazol-1-yl) ethyl]pyrrolidine (5.93 g) as an orange paste.

reactant | (2R,4R)-1-Allyloxycarbonyl-2-[2-(2-hydroxymethyl-imidazol-1-yl) ethyl]-4-methanesulfonyloxypyrrolidine | 15.7 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C(=NC=C1)CO | C15H23N3O6S
reactant | thioacetic S-acid | 6.30 ml | C(C)(=O)S | C2H4OS
product | (2R,4S)-4-acetylthio-1-allyloxycarbonyl-2-[2-(2-hydroxymethylimidazol-1-yl) ethyl]pyrrolidine | 5.93 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CCN1C(=NC=C1)CO | C16H23N3O4S
